US07947834B2
10.2 g of tert-butyl 3-trifluoromethanesulfonyloxy-2,5-dihydropyrrole-1-carbamate as a 1/1 mixture with C,C,C-trifluoro-N-phenylmethanesulfonamide in 50 ml of dioxane are placed in a 500 ml round-bottomed flask. 120.5 ml of a 4N solution of hydrochloric acid in dioxane are subsequently added carefully. The reaction mixture is stirred for 3 h. The dioxane is evaporated and the product is purified on silica gel using a dichloromethane/methanol 95/5 mixture as eluent. 5 g of trifluoromethanesulfonic acid 2,5-dihydro-1H-pyrrol-3-yl ester are obtained.

reactant | tert-butyl 3-trifluoromethanesulfonyloxy-2,5-dihydropyrrole-1-carbamate | 10.2 g | FC(S(=O)(=O)OC=1CN(CC1)NC(=O)OC(C)(C)C)(F)F | C10H15F3N2O5S
reactant | C,C,C-trifluoro-N-phenylmethanesulfonamide | FC(S(=O)(=O)NC1=CC=CC=C1)(F)F | C7H6F3NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | trifluoromethanesulfonic acid 2,5-dihydro-1H-pyrrol-3-yl ester | 5 g | N1CC(=CC1)OS(=O)(=O)C(F)(F)F | C5H6F3NO3S
